US09211280B2
Preparation of (E)-2-(6-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-1-oxophthalazin-2(1H)-yl)acetic acid (BI29)
A solution of (E)-ethyl-2-(6-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1-oxophthalazin-2(1H)-yl)acetate (0.04 g, 0.07 mmol) in HCl (0.5 mL) and acetic acid (0.5 mL) was heated to 100° C. for 3 h. The solvent was removed under reduced pressure and the residue diluted with water. The aqueous layer was extracted with ethyl acetate and the separated ethyl acetate layer dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford the crude compound. The crude compound was triturated with diethyl ether-pentane mixture to afford the title compound as a brown solid (0.03 g): 1H NMR (400 MHz, DMSO-d6) δ 13.0 (br s, 1H), 8.43 (m, 1H), 8.23 (d, J=8.1 Hz, 1H), 8.14 (m, 2H), 7.91 (m, 2H), 7.16 (dd, J=16.0, 8.0 Hz, 1H), 6.99 (d, J=16.0 Hz, 1H), 4.96 (m, 3H); ESIMS m/z 473.0 ([M−H]−); IR (thin film) 1629, 1168, 817 cm−1.

reactant | (E)-ethyl-2-(6-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1-oxophthalazin-2(1H)-yl)acetate | 0.07 mmol, 0.04 g | C(C)OC(CN1C(C2=CC=C(C=C2C=N1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)F)Cl)=O)=O | C22H16Cl2F4N2O3
solvent | HCl | 0.5 mL | Cl | ClH
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | (E)-2-(6-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-1-oxophthalazin-2(1H)-yl)acetic acid | 0.03 g | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2C=NN(C(C2=CC1)=O)CC(=O)O)C(F)(F)F | C20H12Cl2F4N2O3
